US06794395B1
(3) 1-acetyl-6-trifluoromethyl-2-indolinone
Prepared from 6-trifluoromethyl-2-indolinone and acetic anhydride

reactant | 6-trifluoromethyl-2-indolinone | FC(C1=CC=C2CC(NC2=C1)=O)(F)F | C9H6F3NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-6-trifluoromethyl-2-indolinone | C(C)(=O)N1C(CC2=CC=C(C=C12)C(F)(F)F)=O | C11H8F3NO2
